US06306860B1
2-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]- 5-[N-(3-methoxypropyl)carbamoyl]pyridine
By the same procedure as described in the example 25, the synthesis was carried out starting with 6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester and using 3-methoxypropylamine. And then, the product was recrystallized with methanol and isopropyl ether to give a desired compound.

reactant | 6-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC(C)C)=O | C21H27N5O3
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | 2-[1-[3-(isobutylamino)-2-pyridyl]piperazin-4-yl-carbonyl]- 5-[N-(3-methoxypropyl)carbamoyl]pyridine | Yield: 64% | C(C(C)C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCCCOC)=O | C24H34N6O3
